US08378092B2
16.1) 3-Bromo-5-fluoro-2-methyl-phenylamine (Intermediate 48)
To iron powder (325 mesh, 2.25 g, 40.3 mmol) in 30 ml water and 80 ml isopropanol was added commercially available 1-bromo-5-fluoro-2-methyl-3-nitro-benzene (3.04 g, 13 mmol) in 45 ml isopropanol and NH4Cl (1.46 g, 27.3 mmol). The resulting mixture was heated at 110° C. for 2 h. After evaporation of most of the isopropanol the aq solution was extracted with ethyl acetate three times. The combined organic layers were washed with water and brine, dried over MgSO4, filtered and evaporated. The crude product was used without further purification in the next step.

reactant | 1-bromo-5-fluoro-2-methyl-3-nitro-benzene | 13 mmol, 3.04 g | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
reactant | NH4Cl | 27.3 mmol, 1.46 g | [NH4+].[Cl-]
solvent | water | 30 ml | O | H2O
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 45 ml | C(C)(C)O | C3H8O
catalyst | iron | 40.3 mmol, 2.25 g | [Fe] | Fe
product | 3-Bromo-5-fluoro-2-methyl-phenylamine | BrC=1C(=C(C=C(C1)F)N)C | C7H7BrFN
